US04988723
To a solution of trans-4-(2-cyanoimino-3-methylimidazolidin-1-yl)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.95 g) in dry pyridine (9.5 ml) was added acetic anhydride (0.68 ml) at ambient temperature. The reaction mixture was stirred for 21 hours and 20 minutes at ambient temperature and then diluted with ethyl acetate (90 ml). The resultant solution was washed successively with 10% hydrochloric acid (50 ml, 30 ml), water (50 ml), saturated aqueous sodium bicarbonate (50 ml), dried over magnesium sulfate, and evaporated in vacuo. The residue was triturated with diisopropyl ether, and recrystallized from ethanol to give trans-3-acetoxy-4-(2-cyanoimino-3-methylimidazolidin-1-yl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.57 g).

reactant | trans-4-(2-cyanoimino-3-methylimidazolidin-1-yl)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.95 g | C(#N)N=C1N(CCN1C)[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C17H19N5O2
reactant | acetic anhydride | 0.68 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 9.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | trans-3-acetoxy-4-(2-cyanoimino-3-methylimidazolidin-1-yl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.57 g | C(C)(=O)O[C@@H]1C(OC2=C([C@H]1N1C(N(CC1)C)=NC#N)C=C(C=C2)C#N)(C)C | C19H21N5O3
